US09353082B2
b) N-methyl-N-(1-(methylsulfonyl)piperidin-4-yl)-4-(pyridin-3-yl)-1H-imidazole-1-carboxamide
To an ice-water cooled suspension of N-methyl-N-(piperidin-4-yl)-4-(pyridin-3-yl)-1H-imidazole-1-carboxamide bis(2,2,2-trifluoroacetate) (300 mg, 0.584 mmol) in dichloromethane (10 mL) was added DMAP (35.7 mg, 0.292 mmol), followed by the dropwise addition of triethylamine (0.326 mL, 2.337 mmol), followed in turn by addition of methanesulfonyl chloride (0.072 mL, 0.934 mmol). The solution was allowed to stir at room temperature overnight, whereupon it was quenched by the addition of methanol and allowed to stir at room temperature. The white precipitate was collected by filtration, washed with methanol and ether, then dried to give the product as a white solid, (158 mg, 74%).

reactant | N-methyl-N-(piperidin-4-yl)-4-(pyridin-3-yl)-1H-imidazole-1-carboxamide bis(2,2,2-trifluoroacetate) | 0.584 mmol, 300 mg | FC(C(=O)O)(F)F.FC(C(=O)O)(F)F.CN(C(=O)N1C=NC(=C1)C=1C=NC=CC1)C1CCNCC1
reactant | triethylamine | 2.337 mmol, 0.326 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.934 mmol, 0.072 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | DMAP | 0.292 mmol, 35.7 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-methyl-N-(1-(methylsulfonyl)piperidin-4-yl)-4-(pyridin-3-yl)-1H-imidazole-1-carboxamide | 158 mg, 74% | CN(C(=O)N1C=NC(=C1)C=1C=NC=CC1)C1CCN(CC1)S(=O)(=O)C | C16H21N5O3S
